Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Right lower extremity Charcot foot
 
Major Surgical or Invasive Procedure:
1.  Abdominal aortogram.
2.  Right lower extremity angiogram.
3.  Percutaneous trans-luminal angioplasty and stenting of the
right popliteal artery, as well as angioplasty of the proximal
right superficial femoral artery
4.  Percutaneous trans-luminal angioplasty of the peroneal
artery using a 2-mm balloon.

 
History of Present Illness:
Ms. ___ is a ___ type 1 diabetic, history of diabetic 
neuropathy, history of Charcot of the right foot.  She was 
referred by the
___ Foot and Ankle Department.  She
states that she has had increasing deformity of her right lower
extremity.  She has baseline neuropathy and known Charcot of her
hindfoot.  
 
Past Medical History:
Insulin-dependent diabetes ___ years.  Hemoglobin A1c 7.2, 
Hypertension, Arthritis
 
Physical Exam:
Gen: NAD, AOx3 
HEENT: PEERLA, no neck masses, no LAD 
PULM: unlabored breathing, normal chest excursion 
CV: RRR, no m/r/g 
Abd: soft, non-distended, non-tender, no masses 
Ext: LLE: left groin with dressing in place C/D/I, no hematoma 
or swelling. Right foot with markedly enlarged heel

 
Pertinent Results:
___ 07:50AM BLOOD WBC-4.6 RBC-4.02 Hgb-11.2 Hct-34.0 MCV-85 
MCH-27.9 MCHC-32.9 RDW-16.3* RDWSD-50.6* Plt ___
___ 09:11AM BLOOD WBC-10.3* RBC-3.18* Hgb-8.8* Hct-26.9* 
MCV-85 MCH-27.7 MCHC-32.7 RDW-16.2* RDWSD-49.9* Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-117* UreaN-14 Creat-0.7 Na-133* 
K-4.8 Cl-94* HCO3-26 AnGap-13
___ 09:11AM BLOOD Glucose-168* UreaN-17 Creat-0.8 Na-131* 
K-5.5* Cl-89* HCO3-23 AnGap-19*
___ 07:50AM BLOOD Calcium-8.9 Phos-4.1 Mg-1.5*
 
Brief Hospital Course:
Ms ___ is a ___ with charcot disease of the Right foot who was 
transferred from ___ and admitted to the ___ 
___ on ___. The patient was taken to the 
endovascular suite and underwent diagnostic and therapeutic 
angiogram. For details of the procedure, please see the 
surgeon's operative note. The patient tolerated the procedure 
well without complications and was brought to the 
post-anesthesia care unit in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where she remained through the rest of the hospitalization.

Post-operatively, she did well without any groin swelling. She 
was able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone. She was deemed ready for discharge, 
and was given the appropriate discharge and follow-up 
instructions.

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth BID PRN Disp 
#*20 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6H PRN Disp #*20 Tablet 
Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Gabapentin 300 mg PO TID  
7.  Lisinopril 10 mg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Propranolol 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower extremity Charcot foot

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital after surgery 
on your leg. This surgery was done to improve blood flow to your 
leg. You tolerated the procedure well and are now ready to be 
discharged from the hospital. Please follow the recommendations 
below to ensure a speedy and uneventful recovery.

Vascular Leg Surgery Discharge Instructions

What to except:
It is normal feel tired for ___ weeks after your surgery
It is normal to have leg swelling. Keep your leg elevated as 
much as possible. This will decrease the swelling. 
Your leg will feel tired and sore. This usually passes within a 
few weeks.
Your incision will be sore, slightly raised, and pink. Any 
drainage should decrease or stop with in the first 2 weeks. 
If you are home, you will likely receive a visit from a 
Visiting Nurse ___. Members of your health care team will 
discuss this with you before you go home. 

Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home. If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team! 

It is very important that you take Aspirin every day! You 
should never stop this medication before checking with your 
surgeon. You also will take Plavix (clopidrogel) everyday for 
the next ___ days

Pain Management:
It is normal to feel some discomfort/pain following surgery. 
This pain is often described as soreness. 
You may take Tylenol (acetaminophen ) as needed for pain. You 
will also receive a prescription for stronger pain medicine, if 
the Tylenol doesnt work, take prescription medicine. 
Narcotic pain medication can be very constipating, please also 
take a stool softner such as Colace. If constipation becomes a 
problem, your pharmacist can suggest additional over the counter 
medications. 
Your pain medicine will work better if you take it before your 
pain gets to severe. 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon. 

 Activity:
 Please wear appropriate shoes when bearing weight on Right leg 
with  charcot foot 
Walking is good because it helps your muscles get stronger and 
improves blood flow. Start with short walks. If you can, go a 
little further each time, letting comfort be your guide. 
Try not to go up and downstairs too much in the first weeks. 
Use stairs only once or twice a day until your incision is fully 
healed and you are back to your usual strength.
Avoid things that may constrict blood flow or put pressure on 
your incision, such as tight shoes, socks or knee highs.
Do not take a tub bath or swim until your staples are removed 
and your wound is healed. 
When you sit, keep your leg elevated to reduce swelling.
If swelling in your leg is getting worse, lie down with your 
leg up on a pillows. If your swelling continues, please call 
your surgeon. You may be instructed to use special elastic 
bandages or stockings.
Try not to sit in the same position for a long while. For 
example, ___ go on a long car ride. 
You may go outside. But avoid traveling long distances until 
you see your surgeon at your next visit. 
You may resume sexual activity after your incisions are well 
healed.

Your incision

Your incision may be slightly red around the stitches or 
staples. This is normal.
It is normal to have a small amount of clear or light red fluid 
coming from your incision.

 This will decrease and stop in a few days. If it does not stop, 
or if you have a lot of fluid coming out., please call your 
surgeon.
You may shower 48 hours after your surgery. Do not let the 
shower spray right on the incision, Let the soapy water run over 
the incision, then rinse. Gently pat the area dry. Do not scrub 
the incision, Do not apply ointment or lotions to the incision.
You do not need to cover the incision if there is no drainage, 
If there is a small amount of drainage, put a small sterile 
gauze or Bandaid over the incison.
It is normal to feel a firm ridge along the incision, This will 
go away as your wound heals. 
Avoid direct sun exposure to the incision area for 6 months. 
This will help keep the scar from becoming discolored.
Over ___ months, your incision will fade and become less 
prominent.

Diet and Bowels
It is normal to have a decreased appetite. Your appetite will 
return over time. Follow a well-balanced, health healthy diet, 
without too much salt and fat. 
Prescription pain medicine might make you constipated. If 
needed, you may take a stool softener (such as Colace) or gentle 
laxative (ask your pharmacist for recommendations).

 Drinking more fluid may also help.
If you go 48 hours without a bowel movement, or having pain 
moving your bowels, call your primary care physician.
 
Followup Instructions:
___